US04207413
2,3,4,6-Tetra-O-benzyl-L-glucopyranosyl chloride (42)
Method B--2,3,4,6-Tetra-O-benzyl-α-L-glucopyranose (400 mg.) was dissolved in dry benzene (25 ml.) in a round-bottomed flask equipped with a calcium chloride drying tube and an inlet for nitrogen. To the magnetically stirred solution was added zinc chloride (1.1 g.) followed by thionyl chloride (0.55 ml.) care being taken to exclude atmospheric moisture. The reaction, which was monitored by t.l.c. (Solvent D), was complete after approximately 45 minutes. The solution was then filtered through a 3 cm. thickness of silica gel on a sintered glass funnel and the residue washed with dry benzene. The filtrate was then concentrated under reduced pressure to a colourless syrup which was co-evaporated with benzene (40 ml.) at 30° bath to remove traces of thionyl chloride. The colourless syrup (0.31 g.) was homogeneous on t.l.c. (benzene/diethyl ether 10:1 v/v) and had [α]D -62.5° (c 2.1, chloroform) and the following p.m.r. data: τ2.7 (20 aromatic protons), τ3.9 (1 proton, H-1, doublet with J1,2 ≃3 Hz.), τ5.1-6.6 (15 protons, ring protons and benzylic --CH2 --). The corresponding D-isomer has [α]D +109° (c 1, benzene), +62° (c 1, chloroform) as found by Grob et al [Carbohyd. Res. 10 595 (1964)] and [α]D +95° (c 4.0, benzene), +66° (c 6.3, benzene) as found by Austin et al [J. Chem. Soc., 2128 (1964)].

reactant | 2,3,4,6-Tetra-O-benzyl-α-L-glucopyranose | 400 mg | C(C1=CC=CC=C1)O[C@@H]1[C@H](O)O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H36O6
reactant | thionyl chloride | 0.55 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc chloride | 1.1 g | [Cl-].[Zn+2].[Cl-]
product | 2,3,4,6-Tetra-O-benzyl-L-glucopyranosyl chloride | C(C1=CC=CC=C1)O[C@@H]1C(O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)Cl | C34H35ClO5
